US06951879B2
In analogy to example 14.1, Trifluoro-methanesulfonic acid 3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl ester and Ethyl-(2-methoxy-ethyl)-(1-methyl-prop-2-ynyl)-amine were converted to yield Ethyl-(2-methoxy-ethyl)-{1-methyl-3-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl}-amine as brown oil, MS: 433 (MH+).

reactant | Trifluoro-methanesulfonic acid 3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl ester | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OS(=O)(=O)C(F)(F)F)(F)F | C15H7F6NO3S2
reactant | Ethyl-(2-methoxy-ethyl)-(1-methyl-prop-2-ynyl)-amine | C(C)N(C(C#C)C)CCOC | C9H17NO
product | Ethyl-(2-methoxy-ethyl)-{1-methyl-3-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl}-amine | C(C)N(C(C#CC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1)C)CCOC | C23H23F3N2OS
